US07858632B2
To a solution of 5-(5-amino-2-Isopropyl-4-methoxy-phenoxy)-pyrimidine-2,4-diamine (0.303 g, 1.0 mmol) in 15 mL AcOH was added 2,5-dimethoxypyran (0.152 g, 1.2 mmol). The solution was warmed to reflux. After 2 h the solution was cooled and poured over ice/H2O. The solution was converted to pH=8 with 50% NaOH and extracted with ethyl acetate (3×75 mL). The combined organics were washed with H2O, washed with brine, dried with Na2SO4, filtered and concentrated in vacuo to give a brown solid. Purification via flash chromatography (CH2Cl2/MeOH 97:3) afforded 5-(2-isopropyl-4-methoxy-5-pyrrol-1-yl-phenoxy)-pyrimidine-2,4-diamine (0.244 g, 72%) as a pale yellow solid. (M+H)=340.

reactant | 5-(5-amino-2-Isopropyl-4-methoxy-phenoxy)-pyrimidine-2,4-diamine | 1.0 mmol, 0.303 g | NC=1C(=CC(=C(OC=2C(=NC(=NC2)N)N)C1)C(C)C)OC | C14H19N5O2
reactant | 2,5-dimethoxypyran | 1.2 mmol, 0.152 g | COC1OC=C(C=C1)OC | C7H10O3
reactant | NaOH | [OH-].[Na+]
solvent | AcOH | 15 mL | CC(=O)O | C2H4O2
product | 5-(2-isopropyl-4-methoxy-5-pyrrol-1-yl-phenoxy)-pyrimidine-2,4-diamine | 0.244 g, 72% | C(C)(C)C1=C(OC=2C(=NC(=NC2)N)N)C=C(C(=C1)OC)N1C=CC=C1 | C18H21N5O2
